US07595323B2
N-(5-(4-chloromethylbenzoylamino)-4-methylphenyl)-4-(3-pyridyl)-2-pyrimidine-amine (1.5 g, 3.49 mmol) was dissolved in tetrahydrofuran (30 ml), pyridine (560 μl, 6.98 mmol) was added, and the mixture was stirred for 30 minutes. 1-Amino-4-methylpiperazine (580 μl, 5.23 mmol) was added thereto, and the resulting mixture was refluxed for 12 hours and then filtered. The filtrate was concentrated and crystallized from dimethylether to give 4-(4-methylpiperazin-1-ylaminomethyl)-N-[2-methyl-5-(4-(pyridin-3-yl)pyrimidin-2-yl)aminophenyl]benzamide (1.7 g).

reactant | N-(5-(4-chloromethylbenzoylamino)-4-methylphenyl)-4-(3-pyridyl)-2-pyrimidine-amine | 3.49 mmol, 1.5 g | ClCC1=CC=C(C(=O)NC=2C(=CC=C(C2)NC2=NC=CC(=N2)C=2C=NC=CC2)C)C=C1 | C24H20ClN5O
reactant | pyridine | 6.98 mmol, 560 μl | N1=CC=CC=C1 | C5H5N
reactant | 1-Amino-4-methylpiperazine | 5.23 mmol, 580 μl | NN1CCN(CC1)C | C5H13N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(4-methylpiperazin-1-ylaminomethyl)-N-[2-methyl-5-(4-(pyridin-3-yl)pyrimidin-2-yl)aminophenyl]benzamide | 1.7 g | CN1CCN(CC1)NCC1=CC=C(C(=O)NC2=C(C=CC(=C2)NC2=NC=CC(=N2)C=2C=NC=CC2)C)C=C1 | C29H32N8O
